US03950333
Reacting 5-chloro-3-chloromethyl-1,2,4-thiadiazole with cysteamine by the procedure of Example 1(i)(c) gives 3-[(2-aminoethyl)thiomethyl]-5-chloro-1,2,4-thiadiazole.

reactant | 5-chloro-3-chloromethyl-1,2,4-thiadiazole | ClC1=NC(=NS1)CCl | C3H2Cl2N2S
reactant | cysteamine | NCCS | C2H7NS
product | 3-[(2-aminoethyl)thiomethyl]-5-chloro-1,2,4-thiadiazole | NCCSCC1=NSC(=N1)Cl | C5H8ClN3S2
